US08604023B2
7-Chloro-3-(2-chlorophenethyl)-1-(4-methoxybenzyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione
7-Chloro-3-(2-chlorophenethyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (1.0 g, 1 eq), 1-(chloromethyl)-4-methoxybenzene (448 mg, 1 eq), and potassium carbonate (1.19 g, 3 eq) were suspended in DMF (11.5 mL), and the mixture was stirred at room temperature overnight. Water was then added and the mixture was stirred for 30 minutes. The solid was collected by filtration, and the solid was returned to a flask and concentrated from toluene to remove water. The crude material was purified by chromatography (gradient: 9:1 hexanes:EtOAc to 1:1 hexanes:EtOAc) yielding a white solid (970 mg, 72% yield). 1H-NMR (300 MHz, DMSO-d6) δ 8.90 (d, 1H), 7.60-7.50 (m, 3H), 7.38-7.17 (m, 4H), 6.97 (d, 2H), 6.78 (d, 2H), 5.32 (d, 1H), 4.81 (d, 1H), 3.80 (m, 1H), 3.65 (s, 3H), 2.74 (t, 2H), 2.10 (m, 1H), 1.90 (m, 1H). MS (ES+) m/z 490.9 (M+Na).

reactant | 7-Chloro-3-(2-chlorophenethyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 1.0 g, 1 eq | ClC1=CC2=C(NC(C(NC2=O)CCC2=C(C=CC=C2)Cl)=O)C=C1 | C17H14Cl2N2O2
reactant | 1-(chloromethyl)-4-methoxybenzene | 448 mg, 1 eq | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | potassium carbonate | 1.19 g, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 11.5 mL | CN(C)C=O | C3H7NO
product | 7-Chloro-3-(2-chlorophenethyl)-1-(4-methoxybenzyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 970 mg, 72% yield | ClC1=CC2=C(N(C(C(NC2=O)CCC2=C(C=CC=C2)Cl)=O)CC2=CC=C(C=C2)OC)C=C1 | C25H22Cl2N2O3
